US06355631B1
347 mm3 of triethylamine are added, at room temperature under an argon atmosphere, to a solution of 433 mg of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(3,5-difluorobenzyl)amine in 30 cm3 of dichloro-methane. The mixture is cooled to around 0° C. before adding thereto a solution of 46.4 mm3 of methylsulfonyl chloride in 5 mm3 of dichloromethane, and then it is stirred at room temperature for 1 hour. The reaction mixture is diluted with 20 cm3 of dichloromethane and is then washed with twice 20 cm3 of distilled water. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is introduced into solution in methanol on a Bond Elut® SCX cartridge (10 g), eluting successively with methanol and with a 1 M solution of ammonia in methanol. The ammoniacal fractions are pooled and concentrated to dryness under reduced pressure (2.7 kPa). 0.44 g of N-{1-[bis(4-chloro-phenyl)methyl]azetidin-3-yl}-N-(3,5-difluorobenzyl)-methylsulfonamide is thus obtained in the form of a cream-colored foam [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.81 (s:3H); 3.02 (broad t, J=7.5 Hz: 2H); 3.38 (broad t, J=7.5 Hz:2H); 4.23 (s:1H); 4.40 (mt:1H); 4.54 (s:2H); 6.75 (tt, J=9 and 2 Hz:1H); 6.95 (mt:2H); 7.25 (mt:8H)].

reactant | triethylamine | 347 mm3 | C(C)N(CC)CC | C6H15N
reactant | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(3,5-difluorobenzyl)amine | 433 mg | ClC1=CC=C(C=C1)C(N1CC(C1)NCC1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C23H20Cl2F2N2
reactant | methylsulfonyl chloride | 46.4 mm3 | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloro-methane | 30 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | N-{1-[bis(4-chloro-phenyl)methyl]azetidin-3-yl}-N-(3,5-difluorobenzyl)-methylsulfonamide | 0.44 g | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)(=O)C)CC1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C24H22Cl2F2N2O2S
